US07186729B2
Step 3: 5-Chloro-2-piperazin-1-yl-benzoic acid methyl ester
A solution of 4-(4-chloro-2-methoxycarbonyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (0.32 g, 0.92 mmol) in dichloromethane (5.0 mL) cooled at 0° C. was treated with trifluoroacetic acid (20%) and warmed to room temperature and stirred for 2 h. The reaction mixture was concentrated in vacuo, diluted with ethyl acetate and free based with 10% aqueous sodium bicarbonate. The organics were separated and dried over sodium sulfate and concentrated in vacuo. The product used without any further purification. ESI-MS m/z: 255 (M+1), UV retention time: 1.14 min.

reactant | 4-(4-chloro-2-methoxycarbonyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 0.92 mmol, 0.32 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C=C1)Cl)C(=O)OC | C17H23ClN2O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5.0 mL | ClCCl | CH2Cl2
product | 5-Chloro-2-piperazin-1-yl-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)Cl)N1CCNCC1)=O | C12H15ClN2O2
